US07846929B2
To a solution of 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (2.74 g) in THF (40 mL) at −78° C. was added n-butyllithium (5.15 mL of a 2.5 M solution in hexanes) and the reaction stirred at −78° C. for 1 h. 4-Methylmercaptobenzaldehyde (1.43 mL) was then added and the reaction mixture was lowly warmed to room temperature. Water was added and the resulting precipitate was collected by filtration. Recyrstallisation from EtOAc/hexane yielded (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-(4-methylsulfanyl-phenyl)-methanol (2.53 g).

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 2.74 g | ClC=1N=C(C2=C(N1)C=CS2)N2CCOCC2 | C10H10ClN3OS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-Methylmercaptobenzaldehyde | 1.43 mL | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | Water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-(4-methylsulfanyl-phenyl)-methanol | 2.53 g | ClC=1N=C(C2=C(N1)C=C(S2)C(O)C2=CC=C(C=C2)SC)N2CCOCC2 | C18H18ClN3O2S2
